US08877760B2
5-((1R,2R)-2-amino-3,3-difluorocyclohexylamino)-3-(quinolin-6-ylamino)pyrazine-2-carboxamide
A mixture of 5-((1R,2R)-2-amino-3,3-difluorocyclohexylamino)-3-chloropyrazine-2-carbonitrile (97 mg, 0.241 mmol), 6-aminoquinoline (50 mg, 0.347 mmol), K2CO3 (100 mg, 0.724 mmol), BINAP (25 mg, 0.040 mmol) and Pd(OAc)2 (10 mg, 0.044 mmol) in dioxane (2 mL) was degassed with Ar, then was stirred at 110 C for 20 h. Water was added to induce precipitation. The precipitate was collected, and dried on vacuum to give 5-((1R,2R)-2-amino-3,3-difluorocyclohexylamino)-3-(quinolin-6-ylamino)pyrazine-2-carbonitrile as a solid. The solid 5-((1R,2R)-2-amino-3,3-difluorocyclohexylamino)-3-(quinolin-6-ylamino)pyrazine-2-carbonitrile was dissolved in EtOH (4 mL) and DMSO (2 mL), aq. 1N NaOH (1.0 mL) and aq. H2O2 (50%, 1.0 mL) were added. The mixture was stirred at room temperature for 30 min. HOAc (0.5 mL) was added. The mixture was then concentrated in vacuo. The residue was purified by HPLC to give the titled compound (26 mg). MS 414.2 (M+H); UV 200.0, 263.4, 296.0, 356.1 nm; t 0.335 min.

reactant | 5-((1R,2R)-2-amino-3,3-difluorocyclohexylamino)-3-(quinolin-6-ylamino)pyrazine-2-carbonitrile | N[C@@H]1[C@@H](CCCC1(F)F)NC=1N=C(C(=NC1)C#N)NC=1C=C2C=CC=NC2=CC1 | C20H19F2N7
reactant | NaOH | 1N, 1.0 mL | [OH-].[Na+]
reactant | H2O2 | 1.0 mL | OO | H2O2
reactant | HOAc | 0.5 mL | CC(=O)O | C2H4O2
solvent | EtOH | 4 mL | CCO | C2H6O
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | 5-((1R,2R)-2-amino-3,3-difluorocyclohexylamino)-3-(quinolin-6-ylamino)pyrazine-2-carboxamide | 26 mg | N[C@@H]1[C@@H](CCCC1(F)F)NC=1N=C(C(=NC1)C(=O)N)NC=1C=C2C=CC=NC2=CC1 | C20H21F2N7O
